US05064861
STEP B: N-[(6-sec-butyl-2,4-dichloro-phenoxy)-acetyl]-thiazolidine-2-thione
A solution of 8.09 g of dicyclohexylcarbodiimide and 340 mg of 4-dimethylamino-pyridine in 60 ml of methylene chloride was added at -5°/0° C. to a solution of 9.78 g of (6-sec-butyl-2,4-dichloro phenoxy) acetic acid and 4.63 g of 2-mercaptothiazoline in 80 ml of methylene chloride and the mixture was stirred for 10 minutes at 0° C. and for four hours at ambient temperature. After filtering off the insolubles, the filtrate was evaporated to dryness, and the residue was chromatographed on silica (eluant: hexane-ethyl (7-3)) to obtain 10.3 g of expected product melting at 96° C.

reactant | dicyclohexylcarbodiimide | 8.09 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (6-sec-butyl-2,4-dichloro phenoxy) acetic acid | 9.78 g | C(C)(CC)C1=CC(=CC(=C1OCC(=O)O)Cl)Cl | C12H14Cl2O3
reactant | 2-mercaptothiazoline | 4.63 g | SC=1SCCN1 | C3H5NS2
catalyst | 4-dimethylamino-pyridine | 340 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N-[(6-sec-butyl-2,4-dichloro-phenoxy)-acetyl]-thiazolidine-2-thione | 10.3 g | C(C)(CC)C1=CC(=CC(=C1OCC(=O)N1C(SCC1)=S)Cl)Cl | C15H17Cl2NO2S2
